US05750702
10. Ethyl 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]furan-3-carboxylate
Methanesulfonyl chloride (9.7 g, 0.08 mol) was added dropwise to a stirring solution of ethyl 3-hydroxy-4-oxo-2,3,5,6,7,8-hexahydro-4H-cyclohepta[b]furan-3-carboxylate (17 g, 0.07 mol) and triethylamine (30 mL, 0.21 mol) in dichloromethane (100 mL) at 0° C. The mixture was allowed to reach ambient temperature, stirred for 2 hours, then poured into water and extracted with dichloromethane. The organic layer was washed sequentially with aqueous 2N sodium hydroxide, saturated aqueous sodium bicarbonate, and brine, then dried over magnesium sulfate, filtered, concentrated in vacuo, and purified on Silica gel (1:1 ethyl acetate/hexanes) to give the title compound.

reactant | Methanesulfonyl chloride | 0.08 mol, 9.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 3-hydroxy-4-oxo-2,3,5,6,7,8-hexahydro-4H-cyclohepta[b]furan-3-carboxylate | 0.07 mol, 17 g | OC1(C2=C(OC1)CCCCC2=O)C(=O)OCC | C12H16O5
reactant | triethylamine | 0.21 mol, 30 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Ethyl 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]furan-3-carboxylate | O=C1CCCCC=2OC=C(C21)C(=O)OCC | C12H14O4
